* AD844A SPICE Macro-model                 
* Description: Amplifier
* Generic Desc: 60 MHz, 2000 V/us   Op Amp
* Developed by: JCB / PMI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (07/1991)
* Copyright 1991, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
* This version of the AD844 model simulates the worst case 
* parameters of the 'A' grade.  The worst case parameters
* used correspond to those in the data sheet. 
*
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |  compensation node
*              | | |  |  |  |
.SUBCKT AD844A 1 2 99 50 28 12
*
* INPUT STAGE
*
R1   99  8     1E3
R2   10 50     1E3
V1   99  9     6.6
D1   9   8     DX
V2   11 50     6.6
D2   10 11     DX
I1   99  5     200E-6
I2   4  50     200E-6
Q1   50  3  5  QP 
Q2   99  3  4  QN 
Q3   8   6 30  QN
Q4   10  7 30  QP 
R3   5   6     300E3
R4   4   7     300E3
C1   99  6     8.8E-15
C2   50  7     8.8E-15
*
* INPUT ERROR SOURCES
* 
GB1  99  1     POLY(1)  1  22  400E-9  150E-9
GB2  99 30     POLY(1)  1  22  450E-9  160E-9
VOS  3   1     300E-6
LS1  30  2     1E-8
CS1  99  2     1E-12
CS2  50  2     1E-12
*
EREF 97  0     22  0  1
*
* GAIN STAGE & DOMINANT POLE
*
R5   12 97     2.2E6
C3   12 97     5.5E-12
G1   97 12     99  8  1E-3
G2   12 97     10 50  1E-3
V3   99 13     5.3
V4   14 50     5.3
D3   12 13     DX
D4   14 12     DX
*
* POLE AT 70 MHZ
*
R8  17 97     1E6
C4  17 97     3.18E-15
G4  97 17     12 22  1E-6
*
* POLE AT 300 MHZ
*
R12 21 97     1E6
C8  21 97     0.318E-15
G8  97 21     17 22  1E-6
*
* OUTPUT STAGE
*
ISY 99 50     6.1E-3
R13 22 99     16.7E3
R14 22 50     16.7E3
R15 27 99     30
R16 27 50     30
L2  27 28     6E-8
G9  25 50     21 27  33.33E-3
G10 26 50     27 21  33.33E-3
G11 27 99     99 21  33.33E-3
G12 50 27     21 50  33.33E-3
V5  23 27     0.5
V6  27 24     0.5
D5  21 23     DX
D6  24 21     DX
D7  99 25     DX
D8  99 26     DX
D9  50 25     DY
D10 50 26     DY
*
* MODELS USED
*
.MODEL QN   NPN(BF=1E9 IS=1E-15)
.MODEL QP   PNP(BF=1E9 IS=1E-15)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.ENDS






